US08217063B2
Methyl 4-[(4E)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}-5-{2-[3-(2-oxopyrrolidin-1-yl)propoxy]-phenyl}pent-4-en-1-yl]benzoate
119 mg (0.74 mmol) of 1-(3-chloropropyl)pyrrolidin-2-one [CAS Reg. No. 91152-30-6] and 240 mg (0.74 mmol) of anhydrous cesium carbonate are added to a solution of 169 mg (0.37 mmol) of methyl 4-[(4E)-5-(2-hydroxyphenyl)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}pent-4-en-1-yl]benzoate in 2.5 ml of dry DMF, and the mixture is then stirred at 60° C. for 12 h. The mixture is then filtered, and the filtrate is evaporated to dryness. The residue is purified by preparative HPLC. This gives 169 mg (purity 94%, 0.27 mmol, 74% of theory) of a colorless oil.

reactant | 1-(3-chloropropyl)pyrrolidin-2-one | 0.74 mmol, 119 mg | ClCCCN1C(CCC1)=O | C7H12ClNO
reactant | cesium carbonate | 0.74 mmol, 240 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-[(4E)-5-(2-hydroxyphenyl)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}pent-4-en-1-yl]benzoate | 0.37 mmol, 169 mg | OC1=C(C=CC=C1)/C=C/C(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C=C1)C(=O)OC | C29H30O5
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | Methyl 4-[(4E)-3-{2-[4-(methoxycarbonyl)phenyl]ethyl}-5-{2-[3-(2-oxopyrrolidin-1-yl)propoxy]-phenyl}pent-4-en-1-yl]benzoate | COC(=O)C1=CC=C(C=C1)CCC(CCC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)OCCCN1C(CCC1)=O | C36H41NO6
